US06201006B1
Synthesis of ethyl 2-[[2-[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]pyrrolidinyl]-1-methyl-2-oxoethyl]cyclo-propylamino]acetate (Compound 64)
467 mg of ethyl 2-[[2-[(S)-2-[2-(6-cyano-1-ethylindol-2-yl)ethyl]pyrrolidinyl]-1-methyl-2-oxoethyl]cyclopropylamino]acetate was dissolved in 15 ml of acetonitrile, and diisopropylethylamine and ethyl-2-bromoacetate were added thereto. The reaction mixture was heated to 70° C. and stirred for 4 hours. The reaction solution was concentrated under reduced pressure to obtain the residue, which was then purified with silica gel column chromatography [eluent: dichloromethane/methanol (20:1)] to obtain 538 mg of the title compound as a pale yellow oil.

reactant | ethyl 2-[[2-[(S)-2-[2-(6-cyano-1-ethylindol-2-yl)ethyl]pyrrolidinyl]-1-methyl-2-oxoethyl]cyclopropylamino]acetate | 467 mg | C(#N)C1=CC=C2C=C(N(C2=C1)CC)CC[C@H]1N(CCC1)C(C(C)N(CC(=O)OCC)C1CC1)=O | C27H36N4O3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl-2-bromoacetate | C(C)OC(CBr)=O | C4H7BrO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | ethyl 2-[[2-[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]pyrrolidinyl]-1-methyl-2-oxoethyl]cyclo-propylamino]acetate | 538 mg | C(N)(=N)C1=CC=C2C=C(N(C2=C1)CC)CC[C@H]1N(CCC1)C(C(C)N(CC(=O)OCC)C1CC1)=O | C27H39N5O3
